US04542221
The method for this Example was similar to Example 1 except as follows. The reaction mixture contained 251.3 g (1.0 mole) pentachloropyridine and 236.9 g (4.0 mole KF) of the KF/FeCl3 mixture, and the reaction temperature was 350° C. and the pressure was 340 psig. There was obtained, 4.3 percent yield of a mixture of 2,4-difluoro-3,5,6-trichloropyridine and 2,6-difluoro-3,4,5-trichloropyridine and 54.2 percent yield of 3,5-dichloro-2,4,6-trifluoropyridine and a 24.9 percent yield of 3-chloro-2,4,5,6-tetrafluoropyridine.

reactant | pentachloropyridine | 1.0 mole, 251.3 g | ClC1=C(C(=C(C(=N1)Cl)Cl)Cl)Cl | C5Cl5N
reactant | 2,4-difluoro-3,5,6-trichloropyridine | FC1=NC(=C(C(=C1Cl)F)Cl)Cl | C5Cl3F2N
reactant | 2,6-difluoro-3,4,5-trichloropyridine | FC1=NC(=C(C(=C1Cl)Cl)Cl)F | C5Cl3F2N
product | 3,5-dichloro-2,4,6-trifluoropyridine | 54.2 percent yield | ClC=1C(=NC(=C(C1F)Cl)F)F | C5Cl2F3N
